US05668291
2,2'-Dithiobis[N-[4-(aminocarbonyl)phenyl]benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (4.00 g, 11.7 mmol) in 100 mL of dichloromethane and 4-aminobenzamide (3.20 g, 23.5 mmol) in 26 mL of pyridine. The crude product was triturated with a hot mixture of acetonitrile and DMF, filtered, recrystallized from ethanol-water-DMF, triturated with a hot mixture of methanol and DMF, and filtered to yield 0.563 g of the title compound, mp >270° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 11.7 mmol, 4.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 4-aminobenzamide | 23.5 mmol, 3.20 g | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | pyridine | 26 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-[4-(aminocarbonyl)phenyl]benzamide] | 0.563 g | NC(=O)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC=C(C=C2)C(=O)N)C=CC=C1)=O | C28H22N4O4S2
